US08293768B2
Synthesis of (R)—N-benzyl-2-(4-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with (R)-2-(4-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with benzylamine, the title compound was obtained as a white powder in 10% yield: mp 212-214° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.43 (t, J=5.7 Hz, 1H), 8.02 (br s, 1H), 7.30-7.01 (m, 10H), 4.31 (d, J=5.7 Hz, 2H), 4.14-4.05 (m, 1H), 3.91 (t, J=10.2 Hz, 1H), 3.69-3.64 (m, 1H), 2.90-2.73 (m, 2H), 2.39 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 162.1, 157.4, 156.2, 151.4, 140.1, 136.9, 129.8, 128.8, 128.6, 127.6, 127.1, 127.0, 118.0, 50.4, 48.9, 43.0, 41.1, 17.4; MS (ES+) m/z 407.0 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | (R)-2-(4-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)[C@H]1NC(N(C1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (R)—N-benzyl-2-(4-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 10% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N[C@@H](C1)CC1=CC=CC=C1)=O)C | C22H22N4O2S
